US06727264B1
METHYL 4-[4-({4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL)METHYL)-1H-INDOL-1-YL]BENZOATE:
Prepared by Procedure C and Scheme Q1, with CuBr in place of Cu, using methyl 4-iodobenzoate and N-{3-[1-(1H-indol-4-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide: ESMS m/e: 510.3 (M+H)+.

reactant | methyl 4-iodobenzoate | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | N-{3-[1-(1H-indol-4-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide | N1C=CC2=C(C=CC=C12)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C24H29N3O
product | METHYL 4-[4-({4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL)METHYL)-1H-INDOL-1-YL]BENZOATE | C(C(C)C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CC1=C2C=CN(C2=CC=C1)C1=CC=C(C(=O)OC)C=C1 | C32H35N3O3
